US06444823B1
N-{4-[1-(9H-Fluoren-9-yl)-piperidin-4-yl]-butyl)-3-(pyridin-3-yl)-propionamide (Substance 133)
8.0 g (27.7 mmol) N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide and 5.6 g (55.3 mmol) TEA are placed in 100 ml acetonitrile and cooled to ca. 0° C. under moisture exclusion. 6.8 g (27.7 mmol) 9-bromofluorene are added in solid form and the mixture is stirred two days at ca. 65° C. and two days at RT. Subsequently, the solvent is drawn off under vacuum to a large extent, and the residue is dispersed between CHCl3 and 10% NaOH. The organic phase is washed twice with water and dried over sodium sulfate. After the removal of the solvent, the residue is chromatographically purified over silica gel with CHCl3/CH3OH (98/2 to 94/6) and crystallized from 30 ml acetonitrile after drawing off the solvent. Colorless crystals with an MP of 131-132° C.; yield 2.5 g (20%).

reactant | N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide | 27.7 mmol, 8.0 g | N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C17H27N3O
reactant | 9-bromofluorene | 27.7 mmol, 6.8 g | BrC1C2=CC=CC=C2C=2C=CC=CC12 | C13H9Br
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-{4-[1-(9H-Fluoren-9-yl)-piperidin-4-yl]-butyl)-3-(pyridin-3-yl)-propionamide | C1=CC=CC=2C3=CC=CC=C3C(C12)N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C30H35N3O
